US05654298
A mixture of 4-(1-indolyl)-6-methyl-2-methylaminopyridine (0.35 g, 1.48 mM), methyl iodide (0.5 ml) and dioxane (20 ml) was heated at 90° C. for 15 hours. The mixture was cooled. The solid was collected by filtration, washed with dioxan (10 ml) and then recrystallised from methanol. There was thus obtained 1,6-dimethyl-4-(1-indolyl)-2-methylaminopyridinium iodide (0.15 g, 27% yield), m.p. 275°-277° C.; microanalysis, found: C,49.3; H,4.7; N,10.3%; C16H18N3I. 0.5H2O requires: C,49.5; H,4.9; N,10.8%; NMR: 2.66(3H,s,CH3), 3.1(3H,d, NHCH3), 3.67(3H,s,N+CH3), 6.9(1H,d, indole-3H), 7.05(1H,d,pyridine-3H), 7.2-7.4(3H, complex, pyridine 5-H and aromatic), 7.7(1H,d, aromatic), 7.9-8.0(2H, complex, aromatic and indole-2H), 8.15-8.25(1H,br,NH).

reactant | 4-(1-indolyl)-6-methyl-2-methylaminopyridine | 1.48 mM, 0.35 g | N1(C=CC2=CC=CC=C12)C1=CC(=NC(=C1)C)NC | C15H15N3
reactant | methyl iodide | 0.5 ml | CI | CH3I
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 1,6-dimethyl-4-(1-indolyl)-2-methylaminopyridinium iodide | 0.15 g, 27% yield | [I-].C[N+]1=C(C=C(C=C1C)N1C=CC2=CC=CC=C12)NC | InChI=1S/C16H17N3.HI/c1-12-10-14(11-16(17-2)18(12)3)19-9-8-13-6-4-5-7-15(13)19;/h4-11H,1-3H3;1H
